US07919519B2
Synthesized according to Scheme B1 and general procedure I from 4-(5-benzylbenzofuran-2-yl)-3-fluorobenzaldehyde (0.100 g, 0.30 mmol) and methyl 3-hydroxyazetidine-3-carboxylate (0.058 g, 0.30 mmol) to give methyl 1-((4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)methyl)-3-hydroxyazetidine-3-carboxylate. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.91 (t, J=7.9 Hz, 1H), 7.40-7.61 (m, 2H), 7.15-7.36 (m, 8H), 6.26 (s, 1H), 4.04-4.10 (m, 1H), 4.04 (s, 2H), 3.70 (s, 3H), 3.68-3.69 (m, 1H), 3.63 (d, J=7.9 Hz, 1H), 3.12-3.18 (m, 4H). MS (ESI) m/z: Calculated: 445.2 Observed: 446.1 (M++1).

reactant | 4-(5-benzylbenzofuran-2-yl)-3-fluorobenzaldehyde | 0.30 mmol, 0.100 g | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C=C(C=O)C=C2)F)C1 | C22H15FO2
reactant | methyl 3-hydroxyazetidine-3-carboxylate | 0.30 mmol, 0.058 g | OC1(CNC1)C(=O)OC | C5H9NO3
product | methyl 1-((4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)methyl)-3-hydroxyazetidine-3-carboxylate | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)(C(=O)OC)O)F)C1 | C27H24FNO4
